US08053431B2
To a solution of [1-(2-azidoethyl)-1H-benzimidazol-5-yl]-(octahydroquinolin-1-yl)methanone (1.8 g, 0.0051 mol) in methanol (10 mL) was added 10% Pd/C (0.2 g). The reaction mixture was hydrogenated at 3 kg pressure for 2 h. The catalyst was filtered over celite and the filtrate was concentrated to give [1-(2-aminoethyl)-1H-benzimidazol-5-yl]-(octahydroquinolin-1-yl)methanone (1.5 g, 90%).

reactant | [1-(2-azidoethyl)-1H-benzimidazol-5-yl]-(octahydroquinolin-1-yl)methanone | 0.0051 mol, 1.8 g | N(=[N+]=[N-])CCN1C=NC2=C1C=CC(=C2)C(=O)N2CCCC1CCCCC21 | C19H24N6O
solvent | methanol | 10 mL | CO | CH4O
catalyst | Pd/C | 0.2 g | [Pd] | Pd
product | [1-(2-aminoethyl)-1H-benzimidazol-5-yl]-(octahydroquinolin-1-yl)methanone | 1.5 g, 90% | NCCN1C=NC2=C1C=CC(=C2)C(=O)N2CCCC1CCCCC21 | C19H26N4O
